US06747023B1
Ethyl-2-(4-pyridyl)-5-pyrimidinecarboxylic acid
Sodium ethoxide (590 mg) was dissolved in anhydrous ethanol (50 ml) at room temperature. To the resulting solution, 4-amidinopyridine hydrochloride (1.31 g) was added, followed by the dropwise addition of a solution of ethyl 2,2-diformylacetate (1.20 g) in anhydrous ethanol (50 ml). The resulting mixture was heated under reflux for 6 hours. To the residue obtained by distilling off the solvent under reduced pressure, dichloromethane and water were added. The organic layer thus separated was dried over anhydrous sodium sulfate. After the solvent was concentrated under reduced pressure, the residue was crystallized in ethanol, whereby the title compound (279 mg, 15%) was obtained as colorless crystals.

reactant | Sodium ethoxide | 590 mg | [O-]CC.[Na+]
reactant | 4-amidinopyridine hydrochloride | 1.31 g | Cl.C(N)(=N)C1=CC=NC=C1
reactant | ethyl 2,2-diformylacetate | 1.20 g | C(=O)C(C(=O)OCC)C=O | C6H8O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl-2-(4-pyridyl)-5-pyrimidinecarboxylic acid | 279 mg, 15% | C(C)C1=NC(=NC=C1C(=O)O)C1=CC=NC=C1 | C12H11N3O2
